US05157135
(24R)-5,7-Ergostadiene-1α,3β,25-triol (IIb) (100 mg, 0.23 mmol) prepared in Example 13 was dissolved in ether (1000 ml) and the solution was irradiated for 3 minutes with high pressure mercury lamp using 1.5% aqueous potassium nitrate solution as a filter under water-cooling in an argon gas stream. From the reaction solution was distilled off ether and the resultant residue was purified by preparative high performance liquid chromatography (HPLC) [column: LiChrosorb® Si60 (7 μm), φ25×250 mm, Merck Co., Ltd.; column effluent: 6% methanol-methylene chloride; flow rate: 6.0 ml/ml, detected at 265 nm] to give 25.0 mg of previtamin D (XIIb).

reactant | (24R)-5,7-Ergostadiene-1α,3β,25-triol | 0.23 mmol, 100 mg | CC(C)([C@H](C)CC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)O | C28H46O3
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
solvent | ether | 1000 ml | CCOCC | C4H10O
product | previtamin D | 25.0 mg | CC1=C(C[C@H](CC1)O)/C=C\C2=CCC[C@]3([C@H]2CC[C@@H]3[C@H](C)CCCC(C)C)C | C27H44O
